US06476030B1
a) Toluene-4-sulfonic Acid 5-Hydroxymethyl-1H-pyrazol-3-yl Ester
To a stirred suspension of 5-hydroxymethyl-1H-pyrazol-3-ol (J. Heterocycl. Chem., 1979, 16, 505-508) (1.0245 g, 8.98 mmol) in anhydrous dichloromethane (50 ml), under nitrogen, was added p-toluenesulfonyl chloride (1.8825 g, 9.87 mmol), then, dropwise over 5 min, anhydrous triethylamine (1.50 ml, 10.8 mmol). The mixture was stirred at room temperature for 16.5 h under nitrogen, then washed with brine (50 ml). The aqueous layer was further extracted with dichloromethane, and the combined organic extracts were dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, 5-7% MeOH/CH2Cl2) to afford 1.3067 g (54%) of the title compound as a pale green solid; 1H NMR (360 MHz, d6-DMSO) δ 2.42 (3H, s), 4.38 (2H, d, J=5.7 Hz), 5.32 (1H, t, J=5.7 Hz), 5.82 (1H, d, J=2.2 Hz), 7.47 (2H, d, J=8.3 Hz), 7.77 (2H, d, J=8.3 Hz), 12.55 (1H, s).

reactant | 5-hydroxymethyl-1H-pyrazol-3-ol | 8.98 mmol, 1.0245 g | OCC1=CC(=NN1)O | C4H6N2O2
reactant | p-toluenesulfonyl chloride | 9.87 mmol, 1.8825 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 10.8 mmol, 1.50 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Toluene-4-sulfonic Acid 5-Hydroxymethyl-1H-pyrazol-3-yl Ester | 1.3067 g, 54% | OCC1=CC(=NN1)OS(=O)(=O)C1=CC=C(C=C1)C | C11H12N2O4S
